US04434247
3-Phenylpiperidine
Pyridine and 2-methylpyridine

reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Phenylpiperidine | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
